US06187802B1
A mixture of 2-bromo-1-[1-(3,4-dichlorophenyl)cyclobutyl]-2-phenylethanone (3.8 g), imidazolidine-2-thione (0.97 g), ethanol (70 ml) and acetic acid (40 ml) was heated under reflux for 20 hours then allowed to cool to ambient temperature. The solvents were removed in vacuo and the residue was crystallised from ethanol. The resulting product was collected by filtration, washed with ethanol (10 ml) and dried in vacuo at 100° C. to give 3-[1-(3,4-dichlorophenyl)cyclobutyl]-2-phenyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide as a pale brown solid (1.43 g), m.p. 280° C. (decomposes).

reactant | 2-bromo-1-[1-(3,4-dichlorophenyl)cyclobutyl]-2-phenylethanone | 3.8 g | BrC(C(=O)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C18H15BrCl2O
reactant | imidazolidine-2-thione | 0.97 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-[1-(3,4-dichlorophenyl)cyclobutyl]-2-phenyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 1.43 g | Br.ClC=1C=C(C=CC1Cl)C1(CCC1)C=1N2C(SC1C1=CC=CC=C1)=NCC2 | InChI=1S/C21H18Cl2N2S.BrH/c22-16-8-7-15(13-17(16)23)21(9-4-10-21)19-18(14-5-2-1-3-6-14)26-20-24-11-12-25(19)20;/h1-3,5-8,13H,4,9-12H2;1H
